US03953457
EXAMPLE 1: 1-METHYL-s-TRIAZOLO(4,3-a)QUINOLINE
2-Hydrazinoquinoline (5.0 grams) was placed in a 250-milliliter three-necked flask equipped with a mechanical stirrer and a reflux condenser. To this flask was added 100 milliliters of acetic acid. The reaction mixture was refluxed for twelve hours, then allowed to cool; acetic acid was removed by evaporation. The solid which remained consisted of pure 1-methyl-s-triazolo(4,3-a)quinoline. The product was recrystallized from ethanol, m.p., 166°-7°C.

reactant | 2-Hydrazinoquinoline | 5.0 grams | N(N)C1=NC2=CC=CC=C2C=C1 | C9H9N3
reactant | acetic acid | 100 milliliters | C(C)(=O)O | C2H4O2
product | 1-METHYL-s-TRIAZOLO(4,3-a)QUINOLINE | CC1=NN=C2N1C1=CC=CC=C1C=C2 | C11H9N3
